US03951989
A suspension of 0.237 part of 7-ethyl-4,7-dihydro-2-methyl-4-oxothieno[2,3-b]pyridine-5-carboxylic acid and 0.83 part of pulverized potassium carbonate in 6 parts by volume of dry dimethylformmide is stirred under heating at 100°C for 1 hour. To the mixture is then added 0.3 part by volume of diethyl sulfate. The mixture is stirred under heating at 100°C for 1 hour and filtered to remove insoluble material. The filtrate is concentrated to dryness under reduced pressure and the residue is extracted with chloroform. Evaporation of the solvent from the extract gives ethyl 7-ethyl-4,7-dihydro-2-methyl-4-oxothieno[2,3-b]pyridine-5-carboxylate as crystals. Recrystallization from ethyl acetate yields colorless plates melting at 140°-142°C.

reactant | 7-ethyl-4,7-dihydro-2-methyl-4-oxothieno[2,3-b]pyridine-5-carboxylic acid | C(C)N1C2=C(C(C(=C1)C(=O)O)=O)C=C(S2)C | C11H11NO3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl sulfate | S(=O)(=O)(OCC)OCC | C4H10O4S
product | ethyl 7-ethyl-4,7-dihydro-2-methyl-4-oxothieno[2,3-b]pyridine-5-carboxylate | C(C)N1C2=C(C(C(=C1)C(=O)OCC)=O)C=C(S2)C | C13H15NO3S
